US06992087B2
Preparation of 5-bromo-N-(2,3-dihydro-1H-inden-1-yl)-3,6-dimethylpyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting N-(2,3-dihydro-1H-inden-1-yl)-3,6-dimethylpyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.86, 2.26, 2.53, 2.70, 2.93, 3.03, 4.50, 5.72, 7.28; 13C NMR (CDCl3) δ 19.23, 23.21, 30.25, 34.56, 56.45, 124.05, 124.81, 124.97, 126.78, 128.03, 136.98, 143.71, 144.09, 148.36, 151.15; MS (ESI+) for C15H16N3Br1 m/z 319.20 (M+H)+.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | N-(2,3-dihydro-1H-inden-1-yl)-3,6-dimethylpyrazin-2-amine | C1(CCC2=CC=CC=C12)NC1=NC(=CN=C1C)C | C15H17N3
product | 5-bromo-N-(2,3-dihydro-1H-inden-1-yl)-3,6-dimethylpyrazin-2-amine | BrC=1N=C(C(=NC1C)NC1CCC2=CC=CC=C12)C | C15H16BrN3
